US07435815B2
Naphthalene-2-sulfonic acid (2-methoxy-phenyl)-amide
prepared by reaction of o-anisidine with naphthalene-2-sulfonyl chloride

reactant | o-anisidine | COC=1C(=CC=CC1)N | C7H9NO
reactant | naphthalene-2-sulfonyl chloride | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
product | Naphthalene-2-sulfonic acid (2-methoxy-phenyl)-amide | COC1=C(C=CC=C1)NS(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C17H15NO3S
